US05959123
(3S, 4S)-3-benzyloxycarbonylamino-4-phenoxy-azetidin-2-one (63 mg, 0.2 mmole) is hydrogenated with 100 mg of 10% palladium on activated carbon in ethyl acetate (10 ml) at 50 psi hydrogen pressure at room temperature for 2 hours. After removal of catalyst by filtration, deprotected (3S, 4S)-3-amino-4-phenoxy-azetidin-2-one in ethyl acetate is obtained.

reactant | (3S, 4S)-3-benzyloxycarbonylamino-4-phenoxy-azetidin-2-one | 0.2 mmole, 63 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@H]1OC1=CC=CC=C1)=O | C17H16N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (3S, 4S)-3-amino-4-phenoxy-azetidin-2-one | N[C@@H]1C(N[C@H]1OC1=CC=CC=C1)=O | C9H10N2O2
